Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[C:3]([H:4])[C:5](=[O:6])[C:11]([H:12])([H:13])[H:14],0.79278026058
[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2](=[O:3])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.4110226006099999
[O:1][C:2]([H:3])=[C:4]=[C:5]1[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],0.12919333706
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:9]([H:10])([H:11])[H:12].[H:8],2.40996177797
[H:9].[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])=[O:8]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[O:8][H:9],-2.45444953715
[C:5]([H:6])([H:7])([C:8])[H:13].[H:1][C:2]([H:3])=[C:4][C:9]([C:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-9.06904305081
[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-8.68569639
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2].[C:3]([H:4])([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.13704070226
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.75607181528
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.90623718493
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2].[O:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],3.40311566536
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.88765128418
[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1](=[C:2][C:7]([H:8])([H:9])[H:10])([H:5])[H:6].[C:3]#[C:4],5.89591475466
[C:1]#[C:2][C:3]([H:4])[H:5]>>[C:1].[C:2]=[C:3]([H:4])[H:5],6.27225008783
[H:1][C:2]=[C:14]([H:15])[H:16].[H:3][C:4]([H:5])=[C:12]([C:9]([C:6]([H:7])[H:8])([H:10])[H:11])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-4.29744113253
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],4.47046265586
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],1.75696118657
[H:1][C:2]([H:3])=[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:11]([H:12])([H:13])[H:14].[O:5]=[C:6][C:7]([H:8])([H:9])[H:10],1.2923871114399998
[H:10].[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-4.48976682274
[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1],5.79636735855
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:12]([H:13])([H:14])[H:15],3.82931217615
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[C:1]([C:2]([H:3])([H:4])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14])([H:6])[H:7].[C:5],3.942565772230002
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:6],1.6837994021399998
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]1[C:4]([H:5])([H:6])[O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-0.148094991981
[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.5229318808
[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],5.18785517299
[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12],2.69517499182
[C:1][C:2](=[O:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[O:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9],-1.89689065074
